US08530490B2
Synthesis of N-methyl-1-(1-phenylcyclopropyl)methanamine
1-Phenylcyclopropanecarboxylic acid (2.95 g) was dissolved in DMF (120 mL). To the solution, EDC.HCl (5.2 g), HOBt (3.2 g), and a solution of methylamine in methanol (40%, 1.94 mL) were added, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (50% ethyl acetate/hexane). An aliquot (1.1 g) of the obtained amide compound (2.9 g) was dissolved in THF (60 mL). To the solution, a solution of LAH in THF (2.4 M, 7.9 mL) was added dropwise at 0° C., and the mixture was heated to reflux at 80° C. for 12 hours. To the reaction mixture, water (4.0 mL) was gradually added dropwise at 0° C. The precipitate was removed by filtration and washed with THF (60 mL). Then, the combined filtrate was concentrated under reduced pressure to obtain the title compound (1.0 g) as a colorless oil.

reactant | 1-Phenylcyclopropanecarboxylic acid | 2.95 g | C1(=CC=CC=C1)C1(CC1)C(=O)O | C10H10O2
reactant | EDC.HCl | 5.2 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 3.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methylamine | CN | CH5N
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | methanol | 1.94 mL | CO | CH4O
product | N-methyl-1-(1-phenylcyclopropyl)methanamine | 1.0 g | CNCC1(CC1)C1=CC=CC=C1 | C11H15N
